US04563453
To a suspension of 4-cinnamoyloxy-2-methyl-N-(1-oxo-2,4,6-cycloheptatrien-2-yl)-2H-thieno[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide (0.49 g) in methanol (50 ml) was added dropwise 1N aqueous solution of sodium hydroxide (1.5 ml) at ambient temperature. The resultant mixture was stirred at the same temperature for 8 hours. After neutralization with 1N hydrochloric acid, the solvent was removed under reduced pressure. The residue was washed with water and dried up. The crude crystals were recrystallized from N,N-dimethyl-formamide to give 4-hydroxy-2-methyl-N-(1-oxo-2,4,6-cycloheptatrien-2-yl)-2H-thieno[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide (0.15 g).

reactant | 4-cinnamoyloxy-2-methyl-N-(1-oxo-2,4,6-cycloheptatrien-2-yl)-2H-thieno[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide | 0.49 g | C(C=CC1=CC=CC=C1)(=O)OC1=C(N(S(C2=C1SC=C2)(=O)=O)C)C(=O)NC=2C(C=CC=CC2)=O | C24H18N2O6S2
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-hydroxy-2-methyl-N-(1-oxo-2,4,6-cycloheptatrien-2-yl)-2H-thieno[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide | 0.15 g | OC1=C(N(S(C2=C1SC=C2)(=O)=O)C)C(=O)NC=2C(C=CC=CC2)=O | C15H12N2O5S2
